2180-11-24 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2180-11-23**] 09:50 PM
 PICC LINE - START [**2180-11-23**] 10:30 PM
   started [**2180-11-21**]
 INVASIVE VENTILATION - START [**2180-11-23**] 10:37 PM
   - Changed from AC to PSV
   - Tried to stop sedation but pt started having seizure like activity
   and was biting down on ET tube
   - no difficulties with oxygenation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-24**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 141 (113 - 141) bpm
   BP: 133/70(85) {109/60(72) - 147/84(100)} mmHg
   RR: 31 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    137 mL
                                                                    182 mL
   PO:
             TF:
   IVF:
                                                                    137 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                  1,450 mL
   Urine:
                                                                    150 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -13 mL
                                                                 -1,268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/41/105/30/6
   Ve: 9.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Cardiovascular: Gen: seizure like activity, ey es closed, shaking head
   back and forth, biting down on ET tube
   CV: RRR, no r/g/m
   Lungs: clear anterioorly
   Abd: obese, non distended, ABS
   Ext: no c/c.  Trace edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   7.5 g/dL
   91 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   145 mEq/L
   23.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
   WBC
   8.2
   Hct
   23.8
   Plt
   237
   Cr
   0.5
   TCO2
   32
   32
   31
   Glucose
   91
   Other labs: PT / PTT / INR:14.4/22.5/1.3, ALT / AST:36/16, Alk Phos / T
   Bili:103/.7, Albumin:3.1, LDH:266, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR: improving R pleural effusion
   Microbiology: all negative
   Assessment and Plan
   ASSESSMENT AND PLAN:
   Ms. [**Known lastname 9436**] is a 34F with a PMH s/f a demyelinating disorder of unknown
   etiology, admitted to the [**Hospital1 5**] for further work-up.  Now requiring
   MICU transfer for difficulty with extubation s/p brain biopsy.
   .
   #. Difficult extubation- In the OR/PACU the team had trouble weaning
   FiO2, reporting that the patient would become hypoxic, although there
   is no evidence of blood gases during her OR course.  Currently FiO2 is
   weaned to 40%, PEEP is 5, VT 600, and RR 12, with an ABG of
   7.48/41/105/31
   -Will wean propofol, check a RISBE and perform a spontaneous breathing
   trial.
   .
   #. Metabolic Alkalosis: Possibly secondary to post-hypercapnia with
   recent lung collapse.  No other evidence of hydrogen loss
   -Will check a urine chloride
   .
   #. Pleural effusion: Unclear etiology, concerning that it is
   unilateral, would expect bilateral effusions if simply due to volume
   overload.
   -Can consider a diagnostic thoracentesis to r/o infection.
   - responded well to 10mg IV lasix, repeat today
   .
   #. S/p brain biopsy- Head CT post-op with no signs of bleeding.  Neuro
   checks in the PACU have been stable.
   -Contact [**Name (NI) **] re: when to restart heparin (24 vs. 48 hours)
   -Hold heparin for now
   -Neuro checks per neuro [**Doctor First Name 91**] recommendations
   -reduce sedation
   .
   #.Acute blood loss/Anemia: Was found to have psoas
   hematoma/retroperitoneal bleed in the setting of anticoag for PEs. s/p
   transfusion. IR angiogram showed no active extravasation.  Also now s/p
   brain biopsy.  Hematocrit stable 23-25 but will continue to monitor.
   - 2 units active T&C
   - Tranfuse HCT< 21
   - Guaiac stools
   .
   #. Fevers- Work up to date very broad, likely related to underlying
   central process +/- component of pulmonary emboli, Infectious work up
   negative.
   -CIS
   -Holding on abx, ID has signed off
   -Monitor hemodynamics
   .
   #.Pulmonary Embolism: Patient has widespread pulmonary emboli. Heparin
   dced @ 6am for brain biospy today. Neuro has documented that they would
   favor restarting this 48H post biopsy
   -Will confirm with neurosurgery re: when to restart.
   .
   #. Seizure activity: Currently on dilantin and clonazapam.  Goal is to
   keep the dilantin dose minimized, using the BZD to enable this (plan
   per neuro).
   -Continue monitoring dilantin levels on [**11-26**] (recently uptitrated on
   [**11-23**] from 300-->330mg)
   - Continue clonazepam.
   .
   #. Demyelinating d/o [**Name (NI) 9437**] Unclear etiology at this time.  Now off of
   steroids.  Neurology deferring further treament at this time given lack
   of response.
   -F/u brain biopsy results, and neuro recs.
   .
   #.Sinus Tachy: Tachycardia has been persistent, likely multifactorial
   related to fevers, PEs, agitation.
   -Will continue to monitor
   .
   #Tachycardia - Pt has had tachycardia since dx of PE. Somewhat improved
   since d/c of BB.  DDx includes PE, physiologic response to PE,
   infection, less likely an SVT, as HR has been known to jump to 140's to
   160s.  Can easily represent a physiologic response in a pt of her age.
   - continue to follow
   - only temporarily responds to fluids.
   - IV BB if symptomatic or sustained tachycardia > 160s.
   .
   #Hypertension - BP has previously run high.  Currently not on
   antihypertensives.  Will hold off on tx given recent brain biopsy.
   Reassess and restart treatment, with preference to BB given coexisting
   tachycardia.
   .
   FEN: holding TF for possible extubation
   .
   PPX - pneumoboots, PPI, Bowel reg
   .
   Access: L PICC, RIJ
   .
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-11-24 09:17:00 Physician Attending Progress Note
Chief Complaint: s/p brain biopsy, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight from respiratory perspective- FIO2 weaned to 40%
   Agitated with decrease in sedation
   24 Hour Events:
 OR RECEIVED - At [**2180-11-23**] 09:50 PM
 PICC LINE - START [**2180-11-23**] 10:30 PM
   started [**2180-11-21**]
 INVASIVE VENTILATION - START [**2180-11-23**] 10:37 PM
 MULTI LUMEN - START [**2180-11-23**] 10:54 PM
   placed in ir [**2180-11-10**]
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-11-24**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 112 (108 - 141) bpm
   BP: 115/55(69) {109/55(69) - 147/84(100)} mmHg
   RR: 12 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    137 mL
                                                                    424 mL
   PO:
             TF:
   IVF:
                                                                    137 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                  1,590 mL
   Urine:
                                                                    150 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -13 mL
                                                                 -1,166 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/41/105/30/6
   Ve: 9.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   237 K/uL
   91 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   145 mEq/L
   23.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
   WBC
   8.2
   Hct
   23.8
   Plt
   237
   Cr
   0.5
   TCO2
   32
   32
   31
   Glucose
   91
   Other labs: PT / PTT / INR:14.4/22.5/1.3, ALT / AST:36/16, Alk Phos / T
   Bili:103/0.7, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:266 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
   18 yo woman with chronic demyelinating disease of unclear etiology with
   encephalopathy s/p brain biopsy yesterday, remained intubated
   overnight.
   1. Respiratory Failure: Agitated with decrease in sedation.  Will cut
   propofol in [**Male First Name (un) **], change to PSV - then will plan to cut propofol and
   extubate.
   2. Enchephalopathy/chronic demyelinating disease/seizures: s/p brain
   biopsy.  Check Dilantin levels
   3. Volume overload: diuresed overnight
   4. Anemia: Hct stable.
   5. Bilateral PEs: restart anticoagulation tomorrow.  Persistent sinus
   tachycardia.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Multi Lumen - [**2180-11-23**] 10:54 PM
   Prophylaxis:
   DVT: Boots(restart heaparin gtt tomorrow)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2180-11-25 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated, tolerated with respiratory rates in 30s-40s but 02 sats
   high 90s
   - febrile o/n to 100.3 tx'd with apap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 133 (112 - 138) bpm
   BP: 141/87(98) {82/50(57) - 142/87(98)} mmHg
   RR: 49 (12 - 49) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    800 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                    440 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    270 mL
   Urine:
                                                                  2,520 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 298 (298 - 298) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   7.7 g/dL
   92 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   108 mEq/L
   146 mEq/L
   24.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
                            [**2180-11-25**]  05:30 AM
   WBC
   8.2
   8.4
   Hct
   23.8
   24.0
   Plt
   237
   263
   Cr
   0.5
   0.4
   TCO2
   32
   32
   31
   Glucose
   91
   92
   Other labs: PT / PTT / INR:14.4/23.1/1.2, ALT / AST:36/16, Alk Phos / T
   Bili:103/0.7, Differential-Neuts:77.6 %, Lymph:14.1 %, Mono:6.1 %,
   Eos:1.9 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:266 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   Ms. [**Known lastname 9436**] is a 34F with a PMH s/f a demyelinating disorder of unknown
   etiology, admitted to the [**Hospital1 5**] for further work-up.  Transfered to
   MICU for difficulty with extubation s/p brain biopsy.
   #. Respiratory distress - In the OR/PACU the team had trouble weaning
   FiO2.  Extubated yesterday PM, has been tachypnic to 30s-40s but 100%
   on RA, breathing comfortably
   - continue to monitory
   #. S/p brain biopsy- Head CT post-op with no signs of bleeding.  Neuro
   checks in the PACU have been stable.  No sedation
   -Contact [**Name (NI) **] re: when to restart heparin (24 vs. 48 hours)
   -Hold heparin for now
   -Neuro checks per neuro [**Doctor First Name 91**] recommendations
   #. Pleural effusion: Unclear etiology, concerning that it is
   unilateral, would expect bilateral effusions if simply due to volume
   overload.
   - Can consider a diagnostic thoracentesis to r/o infection.
   - responded well to 10mg IV lasix x1, improved CXR for fluid, no more
   given
   #.Acute blood loss/Anemia: Was found to have psoas
   hematoma/retroperitoneal bleed in the setting of anticoag for PEs. s/p
   transfusion. IR angiogram showed no active extravasation.  Also now s/p
   brain biopsy.  Hematocrit stable 23-25 but will continue to monitor.
   - 2 units active T&C
   - Tranfuse HCT< 21
   - Guaiac stools
   #. Fevers- Work up to date very broad, likely related to underlying
   central process +/- component of pulmonary emboli, Infectious work up
   negative.
   -CIS
   -Holding on abx, ID has signed off
   -Monitor hemodynamics
   # Tachycardia - Pt has had tachycardia since dx of PE. Here in 130s.
   Likely multifactorial from fevers, PE and agitation.
   - continue to follow
   - only temporarily responds to fluids.
   - IV BB if symptomatic or sustained tachycardia > 160s.
   # Metabolic Alkalosis: Possibly secondary to post-hypercapnia with
   recent lung collapse.  No other evidence of hydrogen loss, UCl 114.
   Bicarb 28.
   #.Pulmonary Embolism: Patient has widespread pulmonary emboli. Heparin
   dced @ 6am for brain biospy today. Neuro has documented that they would
   favor restarting this 48H post biopsy
   -Will confirm with neurosurgery re: when to restart.
   #. Seizure activity: Currently on dilantin and clonazapam.  Goal is to
   keep the dilantin dose minimized, using the BZD to enable this (plan
   per neuro).
   - Continue monitoring dilantin levels on [**11-26**] (recently uptitrated on
   [**11-23**] from 300-->330mg)
   - Continue clonazepam.
   #. Demyelinating d/o [**Name (NI) 9437**] Unclear etiology at this time.  Now off of
   steroids.  Neurology deferring further treament at this time given lack
   of response.
   -F/u brain biopsy results, and neuro recs.
   # Hypertension - BP has previously run high.  Currently not on
   antihypertensives.  Will hold off on tx given recent brain biopsy.
   Reassess and restart treatment, with preference to BB given coexisting
   tachycardia.
   # FEN: holding TF for possible extubation
   # PPX - pneumoboots, PPI, Bowel reg
   # Access: L PICC, RIJ
   # Code: Full
   # Dispo: call out to neuro
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-25 12:15:00 Physician Attending Progress Note
Chief Complaint: Altered MS
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Extubated. Tachypneic overnight but no periods of desat
   24 Hour Events:
 MULTI LUMEN - STOP [**2180-11-24**] 11:25 AM
   placed in ir [**2180-11-10**]
 INVASIVE VENTILATION - STOP [**2180-11-24**] 05:35 PM
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Ear, Nose, Throat: No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Edema, Tachycardia
   Nutritional Support: Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Tachypnea
   Gastrointestinal: No(t) Constipation
   Genitourinary: Foley, No(t) Dialysis
   Musculoskeletal: Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: Seizure
   Psychiatric / Sleep: Delirious
   Allergy / Immunology: Immunocompromised, steroid rx recently
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2180-11-25**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 129 (124 - 138) bpm
   BP: 134/73(85) {82/50(57) - 143/92(101)} mmHg
   RR: 43 (12 - 49) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.5 kg (admission): 114.9 kg
             Total In:
                                                                    800 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                    440 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    510 mL
   Urine:
                                                                  2,520 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 298 (298 - 298) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///28/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, bx site clean
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : ), (Breath Sounds: Clear : ), few mid insp
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Oriented (to): not
   responsive, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   7.7 g/dL
   263 K/uL
   92 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   108 mEq/L
   146 mEq/L
   24.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
                            [**2180-11-25**]  05:30 AM
   WBC
   8.2
   8.4
   Hct
   23.8
   24.0
   Plt
   237
   263
   Cr
   0.5
   0.4
   TCO2
   32
   32
   31
   Glucose
   91
   92
   Other labs: PT / PTT / INR:14.4/23.1/1.2, ALT / AST:36/16, Alk Phos / T
   Bili:103/0.7, Differential-Neuts:77.6 %, Lymph:14.1 %, Mono:6.1 %,
   Eos:1.9 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:266 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
   Remains febrile, tachypneic, tachycardic.  Awaiting results of brain bx
   but unlikely there will be a treatable diagnosis.  Will attempt to
   obtain some prognostic information for family.  Will consult Social
   Service, Case Management.  If continued aggressive care is planned she
   will likely need a trache.  Fever remains most likely due to central
   process but will continue surveillance cx.
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, to restart this am per N
   [**Doctor First Name **])
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2180-11-26 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - called out yesterday, no beds available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.3
   HR: 124 (121 - 141) bpm
   BP: 120/73(84) {117/68(83) - 151/92(102)} mmHg
   RR: 33 (27 - 44) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.5 kg (admission): 114.9 kg
             Total In:
                                                                  1,360 mL
                                                                    988 mL
   PO:
             TF:
                                                                    300 mL
                                                                    267 mL
   IVF:
                                                                    500 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    275 mL
   Urine:
                                                                    870 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR, Nl S1 and S2
   Lungs: clear anteriorly
   Abd: soft, ND, NT ABS
   Ext: trace edema bilatearally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   7.7 g/dL
   92 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   108 mEq/L
   146 mEq/L
   24.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
                            [**2180-11-25**]  05:30 AM
   WBC
   8.2
   8.4
   Hct
   23.8
   24.0
   Plt
   237
   263
   Cr
   0.5
   0.4
   TCO2
   32
   32
   31
   Glucose
   91
   92
   Other labs: PT / PTT / INR:14.4/77.1/1.2, ALT / AST:36/16, Alk Phos / T
   Bili:103/0.7, Differential-Neuts:77.6 %, Lymph:14.1 %, Mono:6.1 %,
   Eos:1.9 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:266 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Imaging: No new imaging
   Microbiology: CJD negative
   Catheter tip grew out 15 colonies of Gram Positve Bacteria
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
   Ms. [**Known lastname 9436**] is a 18F with a PMH s/f a demyelinating disorder of unknown
   etiology, admitted to the [**Hospital1 5**] for further work-up.  Transfered to
   MICU for difficulty with extubation s/p brain biopsy.
   #. Respiratory distress - In the OR/PACU the team had trouble weaning
   FiO2.  Extubated yesterday PM, has been tachypnic to 30s-40s but 100%
   on RA, breathing comfortably
   - continue to monitor
   #. S/p brain biopsy- No change in mental status. CT negative for
   bleed.  Heparin restarted 48 hrs post porcedure per neursurgery.
   #. Pleural effusion: Unclear etiology, concerning that it is
   unilateral, would expect bilateral effusions if simply due to volume
   overload.
   - responded well to 10mg IV lasix x1, improved CXR for fluid, no more
   given
   #.Acute blood loss/Anemia: Was found to have psoas
   hematoma/retroperitoneal bleed in the setting of anticoag for PEs. s/p
   transfusion. IR angiogram showed no active extravasation.  Also now s/p
   brain biopsy.  Hematocrit stable 23-25 but will continue to monitor.
   - 2 units active T&C
   - Tranfuse HCT< 21
   - Guaiac stools
   #. Fevers- Work up to date very broad, likely related to underlying
   central process +/- component of pulmonary emboli, Infectious work up
   negative.
   -CIS
   -Holding on abx, ID has signed off
   -Monitor hemodynamics
   # Tachycardia - Pt has had tachycardia since dx of PE. Here in 130s.
   Likely multifactorial from fevers, PE and agitation.
   - continue to follow
   - only temporarily responds to fluids.
   - IV BB if symptomatic or sustained tachycardia > 160s.
   # Metabolic Alkalosis: Possibly secondary to post-hypercapnia with
   recent lung collapse.  No other evidence of hydrogen loss, UCl 114.
   Bicarb 28.
   - ???
   #.Pulmonary Embolism: Patient has widespread pulmonary emboli. Heparin
   dced @ 6am for brain biospy today. Neuro has documented that they would
   favor restarting this 48H post biopsy
   -Will confirm with neurosurgery re: when to restart.
   #. Seizure activity: Currently on dilantin and clonazapam.  Goal is to
   keep the dilantin dose minimized, using the BZD to enable this (plan
   per neuro).
   - Continue monitoring dilantin levels on [**11-26**] (recently uptitrated on
   [**11-23**] from 300-->330mg)
   - Continue clonazepam.
   #. Demyelinating d/o [**Name (NI) 9437**] Unclear etiology at this time.  Now off of
   steroids.  Neurology deferring further treatment at this time given
   lack of response.
   -F/u brain biopsy results, and neuro recs.
   # Hypertension - BP has previously run high.  Currently not on
   antihypertensives.  Will hold off on tx given recent brain biopsy.
   Reassess and restart treatment, with preference to BB given coexisting
   tachycardia.
   # FEN: restart TF
   # PPX - pneumoboots, PPI, Bowel reg
   # Access: L PICC, RIJ
   # Code: Full
   # Dispo: call out to SIRS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2180-11-26**] 02:52 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-26 11:14:00 Physician Attending Progress Note
Chief Complaint: Altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains non-interactive
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Edema, Tachycardia, No(t) Orthopnea
   Nutritional Support: Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: stooling
   Genitourinary: Foley, No(t) Dialysis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Anemia, No(t) Coagulopathy
   Neurologic: Seizure
   Psychiatric / Sleep: Daytime somnolence
   Allergy / Immunology: Immunocompromised, recent steroid rx
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-11-26**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 116 (116 - 141) bpm
   BP: 141/65(82) {120/65(82) - 151/89(102)} mmHg
   RR: 28 (27 - 44) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.5 kg (admission): 114.9 kg
             Total In:
                                                                  1,360 mL
                                                                  1,496 mL
   PO:
             TF:
                                                                    300 mL
                                                                    331 mL
   IVF:
                                                                    500 mL
                                                                  1,135 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    340 mL
   Urine:
                                                                    870 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, biopsy site clean
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Oriented (to): w/o, Movement:
   Purposeful, Tone: Not assessed, clonus
   Labs / Radiology
   7.7 g/dL
   272 K/uL
   115 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   11 mg/dL
   105 mEq/L
   141 mEq/L
   24.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2180-11-23**]  10:57 PM
                            [**2180-11-23**]  11:12 PM
                            [**2180-11-23**]  11:29 PM
                            [**2180-11-24**]  02:42 AM
                            [**2180-11-25**]  05:30 AM
                            [**2180-11-26**]  08:49 AM
   WBC
   8.2
   8.4
   8.5
   Hct
   23.8
   24.0
   24.2
   Plt
   237
   263
   272
   Cr
   0.5
   0.4
   0.4
   TCO2
   32
   32
   31
   Glucose
   91
   92
   115
   Other labs: PT / PTT / INR:14.4/65.0/1.2, ALT / AST:36/16, Alk Phos / T
   Bili:103/0.7, Differential-Neuts:77.6 %, Lymph:14.1 %, Mono:6.1 %,
   Eos:1.9 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:266 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
   Status stable overnight, although her neuro exam fluctuates with clonus
   alternating L and right. She remains less alert than last week.
   Unclear if this is an effect of clonazepam or progression of her
   neurological disease.  Remains on anticoagulation for PE indefinately.
   Fever, tachycardia and tachypnea still seem due to underlying process
   but will recx intermit for spikes in fever.   Given extremely unlikely
   dx of a treatable illness major goal now is discussion of goals of care
   with her family.
   Time spent 35 min
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2180-11-23**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes